US09428470B2
A) tert-Butyl 3-(3-(benzyloxy)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
1,1-Di-tert-butoxy-N,N-dimethylmethanamine (49.9 mL) was added dropwise to a mixture of 3-(3-(benzyloxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid (14.8 g) and toluene (150 mL) at 110 C, and the obtained mixture was heated to reflux for 30 minutes. Further, 1,1-di-tert-butoxy-N,N-dimethylmethanamine (12.48 mL) was added thereto, and the obtained mixture was heated to reflux for 30 minutes. The reaction mixture was concentrated under reduced pressure, and then, the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (16.2 g).

reactant | 1,1-Di-tert-butoxy-N,N-dimethylmethanamine | 49.9 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 3-(3-(benzyloxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | 14.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(C(=O)O)CC(=O)O | C19H17NO6
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 12.48 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-(3-(benzyloxy)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 16.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C27H33NO6
